US07781187B2
General Synthesis for Amination of 2-bromothiophene N,N-dimethylethanolamine
2-Bromothiophene (16.3 g, 0.1 mol), 2-(ethylamino)ethanol (100 ml), Cu metal (0.32 g), CuI (0.85 g), K3PO4(42.4 g) were added to a flask fitted with a magnetic stir bar, a condenser and sealed with a septum. The reaction mixture was stirred at 80° C. for 72 hour under nitrogen position pressure. After the reaction cooled to room temperature, 600 ml water was added and mixture was extracted with ethyl ether (3*200 ml). The combined organic layers were then washed with brine and dried over MgSO4. The solvent was removed in vacuo and the residue was purified by flash chromatography on silica gel eluted with hexane/EtoAc (1:1). The product was obtained as a liquid. Examples of Amination of 2-bromothiophene are shown in Table 7.

reactant | 2-Bromothiophene | 0.1 mol, 16.3 g | BrC=1SC=CC1 | C4H3BrS
reactant | 2-(ethylamino)ethanol | 100 ml | C(C)NCCO | C4H11NO
reactant | K3PO4 | 42.4 g | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
catalyst | CuI | 0.85 g | [Cu]I
solvent | water | 600 ml | O | H2O
product | 2-bromothiophene N,N-dimethylethanolamine | CN(CCO)C.BrC=1SC=CC1 | InChI=1S/C4H3BrS.C4H11NO/c5-4-2-1-3-6-4;1-5(2)3-4-6/h1-3H;6H,3-4H2,1-2H3
